US04340740
1.517 g of O-[p-toluenesulfonyl)-m-phenoxymandelonitrile was dissolved in 5 ml of DME, and the solution was stirred in an argon atmosphere under ice cooling. Sodium salt of 2-mercaptobenzothiazole (760 mg) was added, and the mixture was stirred under ice cooling for 30 minutes, and then at room temperature for 1.5 hours. Water (20 ml) was added to the reaction mixture, and it was extracted with 20 ml of methylene chloride three times. The extract was washed with 10 ml of water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography (silica gel; benzene and methylene chloride) to afford 1.233 g (yield 85%) of alpha-(2-benzothiazolylthio)(m-phenoxyphenyl)acetonitrile as a colorless oil.

reactant | O-[p-toluenesulfonyl)-m-phenoxymandelonitrile | 1.517 g | C1(=CC=C(C=C1)S(=O)(=O)OC(C#N)C1=CC(=CC=C1)OC1=CC=CC=C1)C | C21H17NO4S
reactant | Sodium | [Na] | Na
reactant | 2-mercaptobenzothiazole | 760 mg | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | Water | 20 ml | O | H2O
solvent | DME | 5 ml | COCCOC | C4H10O2
product | alpha-(2-benzothiazolylthio)(m-phenoxyphenyl)acetonitrile | 1.233 g, yield 85% | S1C(=NC2=C1C=CC=C2)SC(C#N)C2=CC(=CC=C2)OC2=CC=CC=C2 | C21H14N2OS2
